US08314098B2
Synthesis of N-(4-chloro-benzylidene)-N′-(7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (Compound 27)
There was dissolved, in ethanol (2 mL), trifluoroacetic acid salt of (7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (28.5 mg, 0.0529 mM), then 4-chloro-benzaldehyde (7.4 mg, 0.053 mM) was added to the solution and the mixture was stirred at room temperature for one hour. This reaction liquid was filtered, the resulting solid was diluted with a saturated aqueous sodium bicarbonate solution and then the solution was extracted with methylene chloride. The extracts thus obtained were combined, dried over anhydrous sodium sulfate, then the solvent was distilled off and the resulting solid was washed with diethyl ether to thus give the title compound (13.0 mg, yield: 57%).

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | (7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 0.0529 mM, 28.5 mg | N1(CCOCC1)C1=CC(=NC=2N1N=C(C2)C2=CC=CC=C2)NN | C16H18N6O
reactant | 4-chloro-benzaldehyde | 0.053 mM, 7.4 mg | ClC1=CC=C(C=O)C=C1 | C7H5ClO
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-(4-chloro-benzylidene)-N′-(7-morpholin-4-yl-2-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 13.0 mg, yield: 57% | ClC1=CC=C(C=NNC2=NC=3N(C(=C2)N2CCOCC2)N=C(C3)C3=CC=CC=C3)C=C1 | C23H21ClN6O
